US07842685B2
Synthesis of 4-((3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)amino)-4-oxobutanoic acid
To methyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-phenylamino)-4-oxobutanoate (123 mg, 0.259 mmol) was added THF/water (4:1) (2.587 m, 0.259 mmol) and lithium hydroxide hydrate (33 mg, 0.776 mmol) before it was stirred at ambient T for 30 min. The reaction mixture was concentrated, triturated with water, filtered, washed with water, and dried in a vacuum oven to give the title compound. MS (ESI) m/z: Calculated: 461.1; Observed: 462.0 (M++1).

reactant | methyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-phenylamino)-4-oxobutanoate | 0.259 mmol, 123 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NC(CCC(=O)OC)=O | C26H22FN3O3S
reactant | THF water | 0.259 mmol | C1CCOC1.O
reactant | lithium hydroxide hydrate | 0.776 mmol, 33 mg | O.[OH-].[Li+]
product | 4-((3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)amino)-4-oxobutanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NC(CCC(=O)O)=O | C25H20FN3O3S
